US05554758
7.1 g of sodium hydroxide was dissolved in 33 ml of water, and 7.6 g of (5-ethyl-2-pyridyl)ethanol was dissolved in 33 ml of tetrahydrofuran. Both solutions were mixed and cooled. To the resultant solution was added dropwise gradually at 0° C. a solution of 11.7 g of p-toluenesulfonyl chloride in 51 ml of tetrahydrofuran, followed by stirring for 2 hours at the same temperature. To the reaction mixture was added ice water. The mixture was extracted twice with 100 ml each of methylene chloride. The extracted organic layers are combined. The resultant organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, whereby 14.4 g of (5-ethyl-2-pyridyl)ethane p-toluenesulfonate was obtained as a pale yellow oily product.

reactant | sodium hydroxide | 7.1 g | [OH-].[Na+]
reactant | (5-ethyl-2-pyridyl)ethanol | 7.6 g | C(C)C=1C=CC(=NC1)C(C)O | C9H13NO
reactant | p-toluenesulfonyl chloride | 11.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | 33 ml | O | H2O
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 51 ml | O1CCCC1 | C4H8O
product | (5-ethyl-2-pyridyl)ethane p-toluenesulfonate | 14.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C)C=1C=CC(=NC1)CC | InChI=1S/C9H13N.C7H8O3S/c1-3-8-5-6-9(4-2)10-7-8;1-6-2-4-7(5-3-6)11(8,9)10/h5-7H,3-4H2,1-2H3;2-5H,1H3,(H,8,9,10)
